US07291632B2
2,4,6-Trifluoro-N-(6-(methyl-(1-methyl-piperidin-4-yl)-amino)-pyridin-2-yl)-benzamide hydrochloride
Prepare according to procedure in Example 66 starting with N-methyl-N-(1-methyl-piperidin-4-yl)-pyridine-2,6-diamine (Preparation 34) (200 mg, 0.907 mmol), 2,4,6-trifluorobenzoyl chloride (130 μL, 0.998 mmol), and 1,4-dioxane (10 mL) to yield 302 mg (80%) of the title compound: mass spectrum (ion spray): m/z=379.2 (M+1); Analysis calc'd for C19H22N4OF3Cl.0.5H2O: C, 53.84; H, 5.47; N, 13.22. Found: C, 54.02; H, 5.32; N, 13.56. mp 302° C. (dec.).

reactant | N-methyl-N-(1-methyl-piperidin-4-yl)-pyridine-2,6-diamine | 0.907 mmol, 200 mg | CN(C1=NC(=CC=C1)N)C1CCN(CC1)C | C12H20N4
reactant | 2,4,6-trifluorobenzoyl chloride | 0.998 mmol, 130 μL | FC1=C(C(=O)Cl)C(=CC(=C1)F)F | C7H2ClF3O
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 2,4,6-Trifluoro-N-(6-(methyl-(1-methyl-piperidin-4-yl)-amino)-pyridin-2-yl)-benzamide hydrochloride | 302 mg, 80% | Cl.FC1=C(C(=O)NC2=NC(=CC=C2)N(C2CCN(CC2)C)C)C(=CC(=C1)F)F | InChI=1S/C19H21F3N4O.ClH/c1-25-8-6-13(7-9-25)26(2)17-5-3-4-16(23-17)24-19(27)18-14(21)10-12(20)11-15(18)22;/h3-5,10-11,13H,6-9H2,1-2H3,(H,23,24,27);1H
